Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
shellfish derived / haldol
 
Attending: ___
 
Chief Complaint:
medication noncompliance
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Our patient is a ___ year old
right-handed man who presents with antipsychotic medication
noncompliance and disorganized behavior in the setting of
schizophrenia. He has a history of auditory hallucinations,
hypertension, and polysubstance abuse (tobacco, alcohol, and
marijuana). He initially presented a few years ago with auditory
hallucinations of voices reciting prayers (he describes to me
that these were his voice) in ___. He tells me that he has 
never
had command auditory hallucinations, and has never had suicidal
ideation or homicidal ideation. He denies any prior visual
hallucinations. There are reports in prior Psychiatry notes that
he has had a "compulsion" to pray that may be related to the
voices, but to me he just says that he is religious and goes to
church twice a week for about 15 minutes at a time. He has had
six psychiatric hospitalizations (including ___, and
___, and three in ___. Although reported in one 
note,
he reports never having been the victim or perpretator of 
assault
on any psychiatric ward or outside the hospital. He feels, at
times, compelled to try and be off medications because of 
feeling
well and entertaining the thought that he might be "cured." He
stopped his medications sometime between 3 and 5 days prior to
admission; in this setting, his mother called ___ and had him
taken to ___. He has been admitted to the ___
psychiatry service.

Besides this, he is relatively healthy. He drinks alcohol once a
week, usually 2 beers. He denies alcohol abuse or drinking to
excess: he does not binge, does not drink to the point of 
passing
out, and has never had tremors, seizures, or delirium
tremens/hallucinations. He smokes marijuana two or three times
per week. He had stopped "everything" for ___ years, but then
recently after his ___ hospitalization starting smoking
cigarettes again (3 per day). He currently states that he wants
to trying quitting all of this again. He told our physicians in
the ED that his friends are "bad people," that they are
influencing him negatively and that he wants to "do better" -
this is one of his expressed goals here on the unit. His last
drink was on the day prior (___) to arrival in the ED.

Course in Emergency Department (including behavior, medications
given):
___ - Clonazepam 1 mg, Aripiprazole 10
 
Past Medical History:
Schizophrenia, Hypertension, ? asthma, ? testicular operation 
(as child)
 
Social History:
___
Family History:
None
 
Physical Exam:
ADMISSION EXAM:
PHYSICAL EXAMINATION:
- Vital Signs: P: 76 BP: 122/72 RR: 12 
- General/Constitutional: Seated comfortably, well-appearing
young man.
- Eyes: Round, regular pupils. No conjunctival icterus, no
injection.
- Ear, Nose, Throat: No oropharyngeal lesions. 
- Neck: No meningismus. No lymphadenopathy. 
- Musculoskeletal: Range of motion with neck rotation full
bilaterally. No focal spinal tenderness.  
- Skin: Left upper arm hypertrophic scar. No rashes. No
concerning lesions appreciated.
- Cardiovascular: Regular rate. Regular rhythm. No murmurs, 
rubs,
or gallops appreciated. Normal distal pulses.
- Respiratory: Lungs clear to auscultation bilaterally. No
crackles. No wheezes.
- Gastrointestinal: Soft. Nontender. Nondistended.

NEUROLOGIC EXAMINATION:
- Mental Status: Awake, alert. Oriented to name, birth place,
current location, year. Attention to examiner easily attained 
and
maintained. Recalls a coherent history, answers questions
appropriately. Speech is fluent with full sentences. Follows
midline and appendicular commands. Intact repetition. Intact 
high
frequency and low frequency naming. No paraphasias. Normal
prosody. No dysarthria. No hemineglect.
- Cranial Nerves: The pupils constrict from 3 mm to 1.5 mm
briskly bilaterally. Eye movements are intact without nystagmus.
Facial movements are symmetric with forced eyelid closure and
volitional smile. The palate elevates symmetrically. Neck
rotation and shoulder shrug are normal and symmetric. The tongue
protrudes in the midline.
- Motor: Muscle bulk is normal in all four limbs. Tone is normal
in all four limbs. No pronation or drift of the arms. No tremor.
No asterixis. No myoclonus. Confrontational strength testing
reveals that the proximal and distal muscle groups of all four
limbs is preserved.
- Coordination: No dysmetria with finger-nose-finger testing.
Intact cadence and accuracy of rapid alternating movements
(finger tap).
- Gait and Stance: Normal initiation. Stable stance with narrow
base. Romberg sign is absent. Normal stride length. Normal arm
swing. No sway with standard gait. No sway with turns.

NEUROPSYCHIATRIC EXAMINATION
- Appearance: Wearing two hospital gowns. Expansive frizzy hair.
- Behavior: Calm, composed, conversational.
- Mood and Affect: Cheerful, mood and affect congruent.
- Thought Process (including whether linear, tangential,
circumstantial and presence or absence of loose associations):
Mostly linear, at times some loosening of associations.
- Thought Content (including presence or absence of
hallucinations, delusions, homicidal and suicidal ideation, with
details if present): No evidence for AH or VH, no SI or HI.
- Judgment and Insight: Good judgment (deciding to restart
medications) and insight (into his schizophrenia).
- Attention, Orientation, Executive function: Attentive to
examiner, can do DOWF and DOWB. States he doesn't know all of 
the
months. Oriented (as above). No abulia.
- Memory: Registers ___, recall ___ at 5 minutes, not corrected
with prompts ("boat" instead of "ship").
- Fund of Knowledge: Limited.
- Speech and Language: (as above).
==============
 
Pertinent Results:
___ 11:00PM BLOOD WBC-11.2* RBC-4.80 Hgb-14.8 Hct-43.8 
MCV-91 MCH-30.8 MCHC-33.7 RDW-12.4 Plt ___
___ 11:00PM BLOOD Neuts-64.6 ___ Monos-3.7 Eos-3.2 
Baso-0.9
___ 11:00PM BLOOD Plt ___
___ 11:00PM BLOOD Glucose-88 UreaN-10 Creat-0.8 Na-142 
K-3.7 Cl-103 HCO3-27 AnGap-16
___ 11:00PM BLOOD ASA-NEG Ethanol-61* Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
He was admitted to the inpatient psychiatry unit due to 
medication noncompliance in the setting of schizophrenia.

# Safety - The patient was on 15 minute checks. There were no 
behavioral outbursts or episodes concerning for self-harm.
 
# Legal - The patient was admitted on ___ on ___. The 
patient signed a CV on ___.
 
# Psychiatric - He was restarted on Abilify and Klonopin. His 
behavior improved from being disorganized to being more 
organized with more linear thought processes.

On a separate note, he has stuttering which is a source of 
social anxiety for him. We would suggest that he be evaluated by 
a Speech Therapist for possible outpatient treatment.
 
# Medical - He was kept on his home dose of Lisinopril and had 
normal blood pressures.
 
# Risk Assessment - He does not have baseline auditory 
hallucinations while on antipsychotic therapy with Abilify. His 
mother will help him with medication adherence by developing a 
regular schedule for administering his medications and observing 
him taking them.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aripiprazole 10 mg PO HS 
2. ClonazePAM 0.5 mg PO QAM 
3. ClonazePAM 1 mg PO QHS 
4. Lisinopril 10 mg PO DAILY 

 
Discharge Medications:
1. Lisinopril 10 mg PO DAILY 
2. ClonazePAM 1 mg PO QHS 
3. ClonazePAM 0.5 mg PO QAM 
RX *clonazepam 1 mg 0.5 to 1 tablet(s) by mouth daily Disp #*45 
Tablet Refills:*1
4. Aripiprazole 10 mg PO HS 
RX *aripiprazole [Abilify] 10 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*2

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: Schizophrenia (with medication noncompliance)
SECONDARY DIAGNOSIS: Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were hospitalized due to increased disorganized behavior in 
the setting of stopping your antipsychotic medication, ABILIFY 
(aripiprazole). You agreed to restart this medication and have 
not had symptoms since. This is a medication that we believe is 
very important for you to take consistently.

You will take:
- Abilify (aripiprazole) 10 mg daily
- Klonopin (clonazepam) 0.5 mg in the morning and 1 mg at night
- Lisinopril 10 mg daily (for your high blood pressure)

Please followup with your outpatient providers as listed below.

It was a pleasure taking care of you during your 
hospitalization.
 
Followup Instructions:
___